US08466122B2
To a solution of (12Z,15Z)-1,2-bis((9Z,12Z)-octadeca-9,12-dienyloxy)henicosa-12,15-dien-3-ol (450 mg, 0.54 mmol), 4-(dimethylamino)butanoic acid hydrochloride (135 mg, 0.8 mmol), EDCI hydrochloride (153 mg, 0.8 mmol), DIPEA (260 μL, 1.6 mmol) in anhydrous dichloromethane (10 mL) was added DMAP (5 mg). The solution was refluxed for 3 hours, cooled to room temperature and concentrated in vacuo to dryness. The reaction mixture was purified by column chromatography on silica gel 60 (eluted with a gradient of 100% hexanes to 1:1 hexanes/ethyl acetate) to afford (12Z,15Z)-1,2-bis((9Z,12Z)-octadeca-9,12-dienyloxy)henicosa-12,15-dien-3-yl 4-(dimethylamino)butanoate as a colorless oil (236 mg). 5.43-5.29 (m, 2H), 5.05-4.98 (m, 1H), 3.68-3.64 (m, 1H), 3.52-3.46 (m, 1H), 3.40 (t, 2H, J=6.7 Hz), 2.78 (t, 6H, J=6.4 Hz), 2.46-2.35 (m, 4H), 2.32 (s, 6H), 2.09-2.02 (m, 12H), 1.91-1.81 (m, 2H), 1.70-1.48 (m, 6H), 1.41-1.23 (m, 50H), 0.90 (t, 9H, J=6.7 Hz).

reactant | (12Z,15Z)-1,2-bis((9Z,12Z)-octadeca-9,12-dienyloxy)henicosa-12,15-dien-3-ol | 0.54 mmol, 450 mg | C(CCCCCCC\C=C/C\C=C/CCCCC)OCC(C(CCCCCCCC\C=C/C\C=C/CCCCC)O)OCCCCCCCC\C=C/C\C=C/CCCCC | C57H104O3
reactant | 4-(dimethylamino)butanoic acid hydrochloride | 0.8 mmol, 135 mg | Cl.CN(CCCC(=O)O)C
reactant | EDCI hydrochloride | 0.8 mmol, 153 mg | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 1.6 mmol, 260 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (12Z,15Z)-1,2-bis((9Z,12Z)-octadeca-9,12-dienyloxy)henicosa-12,15-dien-3-yl 4-(dimethylamino)butanoate | 236 mg | CN(CCCC(=O)OC(C(COCCCCCCCC\C=C/C\C=C/CCCCC)OCCCCCCCC\C=C/C\C=C/CCCCC)CCCCCCCC\C=C/C\C=C/CCCCC)C | C63H115NO4
